.subckt MUX21 in1 in2 ctrl out VDD GND
$inv
mp1 s_bar ctrl VDD VDD P_18 w=0.47u l=0.18u
mn1 s_bar ctrl GND GND N_18 w=0.47u l=0.18u

$TG
mp2 out s_bar in2 VDD P_18 w=0.47u l=0.18u
mp3 out ctrl in1 VDD P_18 w=0.47u l=0.18u
mn2 out ctrl in2 GND N_18 w=0.47u l=0.18u
mn3 out s_bar in1 GND N_18 w=0.47u l=0.18u

.ends
